US08058300B2
Step 3: 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester:
2-(4-Bromo-benzoyl)-3-oxo-butyric acid methyl ester (11 g, 39 mmol) and hydroxylamine hydrochloride (2.66 g, 39 mmol) were combined in acetic acid (50 mL), and the reaction was stirred at 115° C. for 1 hour. After cooling, aqueous work-up gave the title compound.

reactant | 2-(4-Bromo-benzoyl)-3-oxo-butyric acid methyl ester | 39 mmol, 11 g | COC(C(C(C)=O)C(C1=CC=C(C=C1)Br)=O)=O | C12H11BrO4
reactant | hydroxylamine hydrochloride | 39 mmol, 2.66 g | Cl.NO
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester | COC(=O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C12H10BrNO3
